US06228877B1
3-(4-Fluoro-1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione was prepared from (4-fluoro-1-methyl-1H-indol-3-yl)-oxo-acetyl chloride and 2-(1-methyl-6-nitro-1H-indol-3-yl)-acetimidic acid isopropyl ester hydrochloride.

reactant | (4-fluoro-1-methyl-1H-indol-3-yl)-oxo-acetyl chloride | FC1=C2C(=CN(C2=CC=C1)C)C(C(=O)Cl)=O | C11H7ClFNO2
reactant | 2-(1-methyl-6-nitro-1H-indol-3-yl)-acetimidic acid isopropyl ester hydrochloride | Cl.C(C)(C)OC(CC1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=N
product | 3-(4-Fluoro-1-methyl-1H-indol-3-yl)-4-(1-methyl-6-nitro-1H-indol-3-yl)-pyrrole-2,5-dione | FC1=C2C(=CN(C2=CC=C1)C)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])C)=O)=O | C22H15FN4O4
